US08466193B2
1-((6-Methoxypyridin-3-yl)methyl)-1H-indole-6-carboxylic acid was activated and coupled with NH2OH as described in Example 4, Step 3 to provide N-hydroxy-1-((6-methoxypyridin-3-yl)methyl)-1H-indole-6-carboxamide as a tan solid.

reactant | 1-((6-Methoxypyridin-3-yl)methyl)-1H-indole-6-carboxylic acid | COC1=CC=C(C=N1)CN1C=CC2=CC=C(C=C12)C(=O)O | C16H14N2O3
reactant | NH2OH | NO | H3NO
product | N-hydroxy-1-((6-methoxypyridin-3-yl)methyl)-1H-indole-6-carboxamide | ONC(=O)C1=CC=C2C=CN(C2=C1)CC=1C=NC(=CC1)OC | C16H15N3O3
